US06498251B1
Synthesis Example 28c 5-t-Butoxycarbonyl-2-(morpholine-4-carbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
5-t-Butoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid (570 mg, 2.0 mmol) was dissolved in anhydrous tetrahydrofuran (10 ml), and the solution was mixed with 1,1-carbonyldiimidazole (320 mg, 2.0 mmol) and stirred at room temperature for 1 hour. The reaction solution was mixed with morpholine (170 mg, 2.0 mmol) and the stirring was continued for 14 hours. The solvent was removed by evaporation from the reaction solution under a reduced pressure, and the residue was mixed with ethyl acetate and washed with water, hydrochloric acid (1 N), sodium hydroxide aqueous solution (1 N) and saturated brine. The organic layer was dried with anhydrous sodium sulfate, and the solvent was removed by evaporation under a reduced pressure to obtain 610 mg (1.9 mmol, 94% in yield) of the title compound.

reactant | 5-t-Butoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid | 2.0 mmol, 570 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C(=O)O | C13H17NO4S
reactant | morpholine | 2.0 mmol, 170 mg | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-t-Butoxycarbonyl-2-(morpholine-4-carbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C(=O)N2CCOCC2 | C17H24N2O4S
